US05270465
c) 4-Amino-2-[(2-hydroxyethoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 16.0 g (0.133 mole) of 3-amino-2-pyrazinecarbonitrile and the above solution of 2-(2-hydroxyethoxy)acetamidine in absolute ethanol. Refluxing time: 2 hours 30 minutes. Yld: 20.5 g (70%), m.p. 149°-151° C. (ethanol). An analytical sample was obtained by recrystallization from a mixture of acetone and ethanol. M.p. 159°-161° C.

reactant | 3-amino-2-pyrazinecarbonitrile | 0.133 mole, 16.0 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(2-hydroxyethoxy)acetamidine | OCCOCC(=N)N | C4H10N2O2
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-2-[(2-hydroxyethoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COCCO | C9H11N5O2
